US04208202
(e) 1-(3'-Trifluoromethanesulphonamido-4',6'-dichlorophenyl)-pyrrolidin-2-one
4.84 g (0.035 mol) of ground potassium carbonate are added to a solution of 7.0 g (0.0286 mol) of 1-(3-amino-4',6'-dichlorophenyl)-pyrrolidin-2-one in 100 ml of methylene chloride. 9.87 g (0.035 mol) of trifluoromethanesulphonic acid anhydride in 20 ml of methylene chloride are then added dropwise at 0° C., with good stirring. After the addition, the reaction mixture is stirred for a further 30 minutes at the same temperature and then partitioned between methylene chloride and saturated sodium carbonate solution (ice).

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(3-amino-4',6'-dichlorophenyl)-pyrrolidin-2-one | 0.0286 mol, 7.0 g | NC=1C=C(C(=CC1Cl)Cl)N1C(CCC1)=O | C10H10Cl2N2O
reactant | trifluoromethanesulphonic acid anhydride | 0.035 mol, 9.87 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(3'-Trifluoromethanesulphonamido-4',6'-dichlorophenyl)-pyrrolidin-2-one | FC(S(=O)(=O)NC=1C=C(C(=CC1Cl)Cl)N1C(CCC1)=O)(F)F | C11H9Cl2F3N2O3S
